US04551534
7-[3-(2,3-Dimethylphenoxy)-2-hydroxypropyl]-1,4,5,6,7,8-hexahydro-2-methyl-4-(2-methylphenyl)-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester
1,4,5,6,7,8-Hexahydro-2-methyl-4-(2-methylphenyl)-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester (14.5 g), 6.8 g of 3-(2,3-dimethylphenoxy)-1,2-epoxypropane and 250 ml of methanol were combined and refluxed for 18 hours. The solvent was removed in vacuo. The residue was dissolved in diethyl ether and saturated with hydrogen chloride. The solid was separated and dried in vacuo at 75° C. for 18 hours. The solid was recrystallized from acetonitrile to obtain 7.7 g of the title compound as the hydrochloride salt, m.p. 220° C. dec.

reactant | 1,4,5,6,7,8-Hexahydro-2-methyl-4-(2-methylphenyl)-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester | 14.5 g | COC(=O)C1=C(NC=2CNCC(C2C1C1=C(C=CC=C1)C)=O)C | C18H20N2O3
reactant | 3-(2,3-dimethylphenoxy)-1,2-epoxypropane | 6.8 g | CC1=C(OCC2CO2)C=CC=C1C | C11H14O2
solvent | methanol | 250 ml | CO | CH4O
product | 7-[3-(2,3-Dimethylphenoxy)-2-hydroxypropyl]-1,4,5,6,7,8-hexahydro-2-methyl-4-(2-methylphenyl)-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester | 7.7 g | COC(=O)C1=C(NC=2CN(CC(C2C1C1=C(C=CC=C1)C)=O)CC(COC1=C(C(=CC=C1)C)C)O)C | C29H34N2O5
